### PR TITLE
feat: lemmas about BitVector arithmetic inequalities

### PR DESCRIPTION
**Pull request by bollu**
These lemmas are peeled from `leanprover/lnsym`.
Moreover, note that these lemmas only hold when we do not have overflow in their operands, and thus, we are able to treat the operands as if they were 'regular' natural numbers.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2710,6 +2710,31 @@ theorem toNat_mul_of_lt {w} {x y : BitVec w} (h : x.toNat * y.toNat < 2^w) :
     (x * y).toNat = x.toNat * y.toNat := by
   rw [BitVec.toNat_mul, Nat.mod_eq_of_lt h]
 
+
+/--
+`(a ≤ b + c)` if and only if `(a - c ≤ b)`
+when `a - c` and `b + c` do not overflow.
+-/
+theorem le_add_iff_sub_le {a b c : BitVec w₁}
+   (hac : c ≤ a) (hbc : b.toNat + c.toNat < 2^w₁) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2719]:
```suggestion
theorem le_add_iff_sub_le {x y z : BitVec w}
   (hac : z ≤ x) (hbc : y.toNat + z.toNat < 2^w) :
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2719]: Update the comments and other theorem accordingly.

**Review by tobiasgrosser — APPROVED** [review]

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2710,6 +2710,31 @@ theorem toNat_mul_of_lt {w} {x y : BitVec w} (h : x.toNat * y.toNat < 2^w) :
...
+  rw [BitVec.toNat_sub_of_le (by rw [BitVec.le_def]; omega),
+    BitVec.toNat_add_of_lt (by omega)]
+  omega
+
+/--
+`x - z ≤ y - z` if and only if `x ≤ y`
+when `x - z` and `yl - z` do not overflow.
+-/
+theorem sub_le_sub_iff_le (x y z : BitVec w) (hxz : z ≤ x)
+    (hyz : z ≤ y) : (x - z ≤ y - z) ↔ x ≤ y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2731]:
```suggestion
theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x)
    (hyz : z ≤ y) : (x - z ≤ y - z) ↔ x ≤ y := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2710,6 +2710,31 @@ theorem toNat_mul_of_lt {w} {x y : BitVec w} (h : x.toNat * y.toNat < 2^w) :
...
   rw [BitVec.toNat_mul, Nat.mod_eq_of_lt h]
 
+
+/--
+`x ≤ y + z` if and only if `x - z ≤ y`
+when `x - z` and `y + z` do not overflow.
+-/
+theorem le_add_iff_sub_le {x y z : BitVec w}
+   (hxz : z ≤ x) (hbz : y.toNat + z.toNat < 2^w) :
+    (x ≤ y + z) ↔ (x - z ≤ y) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2720]:
```suggestion
theorem le_add_iff_sub_le {x y z : BitVec w}
    (hxz : z ≤ x) (hbz : y.toNat + z.toNat < 2^w) :
      (x ≤ y + z) ↔ (x - z ≤ y) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2710,6 +2710,31 @@ theorem toNat_mul_of_lt {w} {x y : BitVec w} (h : x.toNat * y.toNat < 2^w) :
...
+    (hxz : z ≤ x) (hbz : y.toNat + z.toNat < 2^w) :
+      (x ≤ y + z) ↔ (x - z ≤ y) := by
+  simp_all only [BitVec.le_def]
+  rw [BitVec.toNat_sub_of_le (by rw [BitVec.le_def]; omega),
+    BitVec.toNat_add_of_lt (by omega)]
+  omega
+
+/--
+`x - z ≤ y - z` if and only if `x ≤ y`
+when `x - z` and `yl - z` do not overflow.
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2728]:
```suggestion
when `x - z` and `y - z` do not overflow.
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2710,6 +2710,31 @@ theorem toNat_mul_of_lt {w} {x y : BitVec w} (h : x.toNat * y.toNat < 2^w) :
...
   rw [BitVec.toNat_mul, Nat.mod_eq_of_lt h]
 
+
+/--
+`x ≤ y + z` if and only if `x - z ≤ y`
+when `x - z` and `y + z` do not overflow.
+-/
+theorem le_add_iff_sub_le {x y z : BitVec w}
+    (hxz : z ≤ x) (hbz : y.toNat + z.toNat < 2^w) :
+      (x ≤ y + z) ↔ (x - z ≤ y) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2720]:
```suggestion
      x ≤ y + z ↔ x - z ≤ y := by
```
similarly below.
